US05705456
b) 1-(3-Trifluoromethoxyphenyl)-3-methanesulfonyloxy-2-pyrrolidinone
A stirred solution of 1-(3-trifluoromethoxyphenyl)-3-hydroxy-2-pyrrolidone (19.42 g) in dichloromethane (250 ml) was cooled in an ice bath and treated with triethylamine (11.32 ml). Methanesulfonyl chloride (6.05 ml) was added dropwise via a syringe, and the mixture stirred with cooling for a further 1 hour after which it was allowed to warm to room temperature. After stirring for 2 hours at room temperature methanesulfonyl chloride (0.5 ml) and triethylamine (1.0 ml) were added and the mixture was stirred for a further 2 hours. The reaction mixture was poured into water and extracted with dichloromethane. The dichloromethane extracts were washed with water, dried (MgSO4) and the solvent evaporated under reduced pressure to give the crude sub-title compound (23.0 g), which was used without further purification.

reactant | 1-(3-trifluoromethoxyphenyl)-3-hydroxy-2-pyrrolidone | 19.42 g | FC(OC=1C=C(C=CC1)N1C(C(CC1)O)=O)(F)F | C11H10F3NO3
reactant | triethylamine | 11.32 ml | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 6.05 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 0.5 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 1-(3-Trifluoromethoxyphenyl)-3-methanesulfonyloxy-2-pyrrolidinone | 23.0 g | FC(OC=1C=C(C=CC1)N1C(C(CC1)OS(=O)(=O)C)=O)(F)F | C12H12F3NO5S
